US09102692B2
In a pressure-proof container, palladium acetate (1.0 mg, 0.0044 mmol), 1,3-bis(diphenylphosphino) propane (1.8 mg, 0.0044 mmol), [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (100 mg, 0.16 mmol), and sodium carbonate (18 mg, 0.17 mmol) were dissolved in anhydrous N,N-dimethylformamide (DMF) (0.22 ml). After triethylsilane (52 μl, 0.33 mmol) was added, the air inside the container was replaced with carbon monoxide. Then, the reaction mixture was heated at 60° C. with stirring under pressure with carbon monoxide (3 atm) for 24 hours. After the reaction mixture was cooled to room temperature, the pressure was released to ambient pressure. The reaction mixture was diluted with ethyl acetate. The sodium carbonate was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane/methanol=100/5) to give 2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indole-6-carbaldehyde as a yellow solid (80 mg, 85%).

reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 0.16 mmol, 100 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)I)S(=O)(=O)C1=CC=C(C=C1)C | C27H21IN6O3S
reactant | sodium carbonate | 0.17 mmol, 18 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethylsilane | 0.33 mmol, 52 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | carbon monoxide | [C]=O | CO
solvent | N,N-dimethylformamide | 0.22 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.0044 mmol, 1.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino) propane | 0.0044 mmol, 1.8 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | 2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indole-6-carbaldehyde | 80 mg, 85% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)C=O)S(=O)(=O)C1=CC=C(C=C1)C | C28H22N6O4S
